US06545013B2
Methyl (S)-3-[4-(2,7-naphthyridin-1-yloxy)phenyl]-2-aminopropanoate
A mixture of N-(BOC)-(S)-tyrosine methyl ester (1.71 g, 5.80 (mmol) potassium carbonate (0.80 g, 5.80 mmol) and Intermediate 3 (1.0 g, 6.08 mmol) in dry DMF (10 ml) was stirred at room temperature for 18 h, and at 40° for 18 h. The DMF was removed in vacuo and the residue partitioned between EtOAc (80 ml) and 10% aqueous Na2CO3 (20 ml). The phases were separated and the aqueous layer re-extracted with EtOAc (2×20 ml). The combined organic extracts were washed with brine (10 ml), dried (Na2SO4) and evaporated in vacuo to afford a new colorless oil. Chromatography (silica; 2.5% MeOH/DCM) afforded reasonably pure N-t-butoxycarbonyl protected title compound (1.75 g, 71%). This material was dissolved in EtOAc (40 ml) and HCl gas was bubbled through the stirred solution for 1 min. then the mixture was stirred for an additional 0.5 h. The volatiles were removed in vacuo affording a yellow solid which was partitioned between EtOAc (80 ml) and saturated aqueous NaHCO3 (20 ml). The phases were separated and the aqueous layer re-extracted with EtOAc (2×20ml). The combined organic extracts were washed with brine (10 ml), dried (Na2SO4) and evaporated in vacuo. The obtained oil was chromatographed (silica; 5% MeOH/DCM) to afford the title compound as a near colorless oil (0.83 g, 62%) δH (CDCl3) 9.77 (1H. s), 8.75 (1H, d, J 5.8 Hz), 8.10 (1H, d, J 5.8 Hz), 7.58 (1H, d, J 5.8 Hz), 7.29 (2H, d, J 8.4 Hz), 7.25 (1H, d, J 5.9 Hz), 7.21 (2H, d, J 8.4 Hz), 3.80-3.70 (1H, obscured m), 3.72 (3H, s), 3.15 (1H, dd, J 13.6, 5.1 Hz), 2.88 (1H, dd, J 13.6, 8.0 Hz) and 0.78 (2H, br s); m/z (ES+, 70V) 324 (MH+).

reactant | N-(BOC)-(S)-tyrosine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H21NO5
reactant | potassium carbonate | 5.80 mmol, 0.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | MeOH DCM | CO.C(Cl)Cl
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Methyl (S)-3-[4-(2,7-naphthyridin-1-yloxy)phenyl]-2-aminopropanoate | 1.75 g, 71% | C1(=NC=CC2=CC=NC=C12)OC1=CC=C(C=C1)C[C@@H](C(=O)OC)N | C18H17N3O3
